US04029672
A mixture of 16.0 g of 2-chloroacetyl-1-(o-fluorobenzyl)pyrrole, Example 1a, 8.3 g of di-sec-butylamine and 20.0 g of potassium carbonate in 250 ml xylene is stirred at 120° C. for 72 hours. The mixture is cooled, washed with water, dried and filtered and the xylene is evaporated leaving a brown oil. The oil is dissolved in ether and extracted into a 2N hydrogen chloride solution. The aqueous acidic solution is basified with a sodium carbonate solution and extracted with ether. The ether solution is washed, dried and filtered and the ether removed leaving a brown oil of 1-(o-fluorobenzyl)-2[(di-sec-butylamino)acetyl]pyrrole. Infrared and nuclear magnetic resonance spectra confirm this structure.

reactant | 2-chloroacetyl-1-(o-fluorobenzyl)pyrrole | 16.0 g | ClCC(=O)C=1N(C=CC1)CC1=C(C=CC=C1)F | C13H11ClFNO
reactant | di-sec-butylamine | 8.3 g | C(C)(CC)NC(C)CC | C8H19N
reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ether | CCOCC | C4H10O
product | 1-(o-fluorobenzyl)-2[(di-sec-butylamino)acetyl]pyrrole | FC1=C(CN2C(=CC=C2)C(CN(C(C)CC)C(C)CC)=O)C=CC=C1 | C21H29FN2O
